US07423055B2
A solution of di-tert-butyldicarbonate (70 g, 320 mmol) in methanol (200 mL) was added over 2 h to a cold (−10° C.) solution of 2,4-diaminotoluene (30 g, 245 mmol) and triethylamine (30 mL) in methanol (15 mL). The reaction was followed by thin layer chromatography (hexane/ethyl acetate, 3:1) and stopped after 4 h by adding 50 mL of water. The mixture was concentrated in vacuo and the residue was dissolved in 500 mL of ethyl acetate. This organic phase was washed with water (1×150 mL) and brine (2×150 mL), dried over MgSO4, and concentrated under reduced pressure. The resulting light brown solid was washed with small amounts of diethyl ether to give off-white crystals of 2-methyl-5-tert-butoxycarbonylamino-aniline in 67% yield.

reactant | di-tert-butyldicarbonate | 320 mmol, 70 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2,4-diaminotoluene | 245 mmol, 30 g | NC1=C(C=CC(=C1)N)C | C7H10N2
reactant | triethylamine | 30 mL | C(C)N(CC)CC | C6H15N
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | methanol | 200 mL | CO | CH4O
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 2-methyl-5-tert-butoxycarbonylamino-aniline | 67% yield | CC1=C(N)C=C(C=C1)NC(=O)OC(C)(C)C | C12H18N2O2
